US07196085B2
A stirred mixture of the above crude 3-(4-chloro-3-nitrobenzylidene)-3H-isobenzofuran-1-one (6.2 g), industrial methylated spirit (80 ml), water (60 ml) and ammonium chloride (2.14 g, 0.04 mol) was heated to 70° C., and iron powder (11.2 g, 0.2 gatom) was added in portions. When the addition was complete, the stirred mixture was heated under reflux for a further 2 hours, then it was filtered while hot through Celite. The collected inorganic solids were washed with hot industrial methylated spirit (3×150 ml), then the filtrate and washings were combined and the solvent was removed in vacuo. The residue was triturated with water (60 ml) and the resulting sticky solid was collected by filtration and triturated with industrial methylated spirit (80 ml). The resulting solid was collected by filtration, washed with industrial methylated spirit (2×1 ml) and dried in vacuo for 24 hours to give 3-(3-amino-4-chlorobenzylidene)-3H-isobenzofuran-1-one (3.58 g) as a yellow solid, m.pt. 148–153° C.; m/z (M+H)+. 272/274, 100% purity, which was used directly in the next stage.

reactant | 3-(4-chloro-3-nitrobenzylidene)-3H-isobenzofuran-1-one | 6.2 g | ClC1=C(C=C(C=C2OC(C3=CC=CC=C23)=O)C=C1)[N+](=O)[O-] | C15H8ClNO4
reactant | ammonium chloride | 0.04 mol, 2.14 g | [Cl-].[NH4+]
catalyst | iron | 11.2 g | [Fe] | Fe
solvent | water | 60 ml | O | H2O
product | 3-(3-amino-4-chlorobenzylidene)-3H-isobenzofuran-1-one | 3.58 g | NC=1C=C(C=C2OC(C3=CC=CC=C23)=O)C=CC1Cl | C15H10ClNO2
